US09085583B2
The solution of tert-butyl 2-methyl-1H-pyrrolo[2,3-b]pyridine-3-carboxylate (300.00 mg, 1.29 mmol), 2-bromo-1-cyclopropylpropan-1-one (342.98 mg, 1.94 mmol), Cs2CO3 (841.63 mg, 2.58 mmol), KI (42.88 mg, 0.26 mmol) in DMF (4 ml) were stirred at 25° C. for 18 h. After the reaction completed, the solution was partitioned between EtOAc and H2O. The organic layer was separated, dried over Na2SO4 and evaporated under reduced pressure. The residue was purified by flash column (Eluent: PE:EtOAc=10:1) to get tert-butyl 1-(1-cyclopropyl-1-oxopropan-2-yl)-2-methyl-1H-pyrrolo[2,3-b]pyridine-3-carboxylate as a white oil. (230 mg, yield 54%).

reactant | tert-butyl 2-methyl-1H-pyrrolo[2,3-b]pyridine-3-carboxylate | 1.29 mmol, 300.00 mg | CC1=C(C=2C(=NC=CC2)N1)C(=O)OC(C)(C)C | C13H16N2O2
reactant | 2-bromo-1-cyclopropylpropan-1-one | 1.94 mmol, 342.98 mg | BrC(C(=O)C1CC1)C | C6H9BrO
reactant | Cs2CO3 | 2.58 mmol, 841.63 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | tert-butyl 1-(1-cyclopropyl-1-oxopropan-2-yl)-2-methyl-1H-pyrrolo[2,3-b]pyridine-3-carboxylate | yield 54% | C1(CC1)C(C(C)N1C(=C(C=2C1=NC=CC2)C(=O)OC(C)(C)C)C)=O | C19H24N2O3
